US08912208B2
D. (4-{4-[5-(6-Trifluoromethyl-pyridin-3-ylamino)-pyrazin-2-yl]-phenyl}-cyclohexyl)-acetic acid
To a solution of (4-{4-[5-(6-trifluoromethyl-pyridin-3-ylamino)-pyrazin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester (0.051 g) in 4 Ml THF/water (1:1) was added solid lithium hydroxide (0.030 g). The reaction was stirred at room temperature for 48 h, then heated to 45° C. for 24 h. The reaction was neutralized with 6 N hydrochloric acid and then purified by reverse-phase preparative HPLC to afford the title compound: 1H NMR (400 MHz, DMSO-D6) δ ppm 1.1 (s, 2 H) 1.3 (s, 1 H) 1.6 (s, 2 H) 1.9 (s, 6 H) 3.5 (s, 6 H) 7.4 (s, 2 H) 7.9 (s, 1 H) 8.0 (s, 2 H) 8.6 (s, 1 H), 8.6 (s, 1 H) 8.9 (s, 1 H) 9.1 (s, 1 H) 10.9 (s, 1 H); (M+H)+ 457.1.

reactant | (4-{4-[5-(6-trifluoromethyl-pyridin-3-ylamino)-pyrazin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester | 0.051 g | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(N=C1)NC=1C=NC(=CC1)C(F)(F)F)=O | C25H25F3N4O2
reactant | lithium hydroxide | 0.030 g | [OH-].[Li+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | THF water | C1CCOC1.O
product | (4-{4-[5-(6-Trifluoromethyl-pyridin-3-ylamino)-pyrazin-2-yl]-phenyl}-cyclohexyl)-acetic acid | FC(C1=CC=C(C=N1)NC=1N=CC(=NC1)C1=CC=C(C=C1)C1CCC(CC1)CC(=O)O)(F)F | C24H23F3N4O2
